US07923561B2
N-(2-Cyclohexylamino-quinolin-5-yl)-4-fluoro-benzenesulfonamide
The title compound, MS: m/e=400.3 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 4-fluorobenzenesulfonyl chloride and cyclohexylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-(2-Cyclohexylamino-quinolin-5-yl)-4-fluoro-benzenesulfonamide | C1(CCCCC1)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC=C(C=C1)F | C21H22FN3O2S
